US05571775
23. Preparation of N-(2,6-Dichlorophenyl)-5,7-dimethoxy[1,2,4]triazolo[1,5-a]pyridine-2-sulfonamide
Sodium methoxide in methanol (3.0 mL of 25 percent solution, 0.71 g, 0.013 mol) was added to a solution of N-(2,6-dichlorophenyl)-5-methoxy-7-chloro[1,2,4]triazolo[1,5-a]pyridine-2-sulfonamide (0.66 g, 0.0016 mol) in dimethyl sulfoxide (30 mL) with stirring over several hours. The mixture was allowed to react and was then acidified with acetic acid and diluted with dichloromethane. The resulting organic phase was recovered and washed with water and the volatiles were removed by evaporation under reduced pressure. The residue obtained was chromatographed on silica gel starting with 0.5 percent acetic acid in dichloromethane and gradually increasing the strength to 0.5 percent acetic acid plus 1.0 percent ethanol in dichloromethane. The product fractions were concentrated by evaporation under reduced pressure to obtain 118 mg (13 percent of theory) of the title compound as a pale yellow powder melting at 252°-253° C.(d).

reactant | Sodium methoxide | C[O-].[Na+]
reactant | methanol | 0.013 mol, 3.0 mL, 0.71 g | CO | CH4O
reactant | N-(2,6-dichlorophenyl)-5-methoxy-7-chloro[1,2,4]triazolo[1,5-a]pyridine-2-sulfonamide | 0.0016 mol, 0.66 g | ClC1=C(C(=CC=C1)Cl)NS(=O)(=O)C1=NN2C(C=C(C=C2OC)Cl)=N1 | C13H9Cl3N4O3S
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | dimethyl sulfoxide | 30 mL | CS(=O)C | C2H6OS
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(2,6-Dichlorophenyl)-5,7-dimethoxy[1,2,4]triazolo[1,5-a]pyridine-2-sulfonamide | ClC1=C(C(=CC=C1)Cl)NS(=O)(=O)C1=NN2C(C=C(C=C2OC)OC)=N1 | C14H12Cl2N4O4S
